US07304066B2
3-[6-amino-1-hexyl-oxy]-pyridine, hydrochloride
3-[6-(N-tert-Butoxycarbonylamino)-1-hexyl-oxy]-pyridine (180 mg) was treated with a large excess of hydrogen chloride in dietyl ether with stirring for 45 minutes followed by evaporation in vacuo. Trituration with diethyl ether, decantation and evaporation gave the title compound as a colourless powder.

reactant | 3-[6-(N-tert-Butoxycarbonylamino)-1-hexyl-oxy]-pyridine | 180 mg | C(C)(C)(C)OC(=O)NCCCCCCOC=1C=NC=CC1 | C16H26N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | dietyl ether | C(C)OCC | C4H10O
product | 3-[6-amino-1-hexyl-oxy]-pyridine, hydrochloride | Cl.NCCCCCCOC=1C=NC=CC1 | InChI=1S/C11H18N2O.ClH/c12-7-3-1-2-4-9-14-11-6-5-8-13-10-11;/h5-6,8,10H,1-4,7,9,12H2;1H
